US07592362B2
1-(2-Bromo-3-methylphenyl)ethanone
To a solution of 1-(2-amino-3-methylphenyl)ethanone (Helv. Chim. Acta; EN; 62, 1979, 271-303,) (850 mg, 5.7 mmol) in hydrobromic acid (9 ml, 5.7 mmol) and water (6 ml), at 0° C., was added aqueous sodium nitrite solution (503 mg, 7.3 mmol) and the mixture was stirred for 15 min. This mixture was added to copper (I) bromide (899 mg, 6.3 mmol) in hydrobromic acid (9 ml, 5.7 mmol) at 60° C. and the reaction mixture was heated at 95° C. for a further 30 min. After cooling, the mixture was poured into an ice/water slurry and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated in vacuo. To the residue was added ethyl acetate:cyclohexane [1:4] and the solution was filtered through silica. The filtrate was concentrated in vacuo to give the title compound (1.06 g).

reactant | 1-(2-amino-3-methylphenyl)ethanone | 5.7 mmol, 850 mg | NC1=C(C=CC=C1C)C(C)=O | C9H11NO
reactant | hydrobromic acid | 5.7 mmol, 9 ml | Br | BrH
reactant | sodium nitrite | 7.3 mmol, 503 mg | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 5.7 mmol, 9 ml | Br | BrH
solvent | water | 6 ml | O | H2O
catalyst | copper (I) bromide | 6.3 mmol, 899 mg | [Cu]Br
product | 1-(2-Bromo-3-methylphenyl)ethanone | 1.06 g | BrC1=C(C=CC=C1C)C(C)=O | C9H9BrO
